US06284894B1
To a solution of t-butylnitrite (535 μl, 4.5 mmol) and allyl bromide (3.9 ml, 45.0 mmol) in CH3CN (3 ml), 4-nitro-2-trifluoromethylaniline (618 mg, 3.0 mmol) was added during 20 minutes while maintaining the temperature of the reaction mixture at 18-19° C. At the end of the addition of the aniline, extra t-butylnitrite (180 μl, 1.5 mmol) was added to the reaction mixture which then was stirred at 25° C. for one hour. The volatile material in the reaction mixture was removed at reduced pressure. Column chromatography (heptane-ethyl acetate 49:1) gave 587 mg (85%) of allyl-4-nitro-2-trifluoromethylbenzene as a light yellow oil. 1H NMR (CDCl3, 400 MHz) δ 8.53, (d, 1H, J=2.4 Hz), 8.35, (dd, 1H, J=8.5, 2.4 Hz), 7.59, (d, 1H, J=8.5 Hz), 6.00-5.88, (m, 1H), 5.24-5.12, (m, 2H), 3.68, (d, 2H, J=6.5 Hz); 13C NMR (CDCl3, 100 MHz) δ 146.8, 146.6, 134.9, 133.0, 130.3, (q, J=32.2 Hz), 127.7, 126.9, 124.9, 122.2, 122.1, (q, J=6.0 Hz), 118.7, 37.0, (m); Anal HRMS Calcd. for C10H8F3NO2 (M): 231.0507. Found: 208.0515.

reactant | t-butylnitrite | 4.5 mmol, 535 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | allyl bromide | 45.0 mmol, 3.9 ml | C(C=C)Br | C3H5Br
reactant | 4-nitro-2-trifluoromethylaniline | 3.0 mmol, 618 mg | [N+](=O)([O-])C1=CC(=C(N)C=C1)C(F)(F)F | C7H5F3N2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | t-butylnitrite | 1.5 mmol, 180 μl | C(C)(C)(C)ON=O | C4H9NO2
solvent | CH3CN | 3 ml | CC#N | C2H3N
product | allyl-4-nitro-2-trifluoromethylbenzene | 587 mg, 85% | C(C=C)C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C10H8F3NO2
